US07700628B2
To a solution of 3-bromopropylamine hydrobromide (100 g, 457 mmol) in water (250 mL) was added a solution of di-tert-butyl dicarbonate (49.84 g, 228 mmol) in dichloromethane (600 mL). The resulting biphasic mixture was stirred vigorously, then a solution of sodium hydroxide (36.56 g, 914 mmol) in water (250 mL) was added and the mixture stirred at room temperature for 3 to 16 hours. The organic layer was washed sequentially with water, 0.2 N HCl until the pH reached 1, then again with water until the pH reached 6 to 7. The organic layer was dried over sodium sulfate and concentrated in vacuo to provide 45.18 grams (83%) of 1-tert-butoxycarbonylamino-3-bromopropane as a pale orange oil.

reactant | 3-bromopropylamine hydrobromide | 457 mmol, 100 g | Br.BrCCCN
reactant | di-tert-butyl dicarbonate | 228 mmol, 49.84 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydroxide | 914 mmol, 36.56 g | [OH-].[Na+]
solvent | water | 250 mL | O | H2O
solvent | dichloromethane | 600 mL | ClCCl | CH2Cl2
solvent | water | 250 mL | O | H2O
product | 1-tert-butoxycarbonylamino-3-bromopropane | 45.18 grams, 83% | C(C)(C)(C)OC(=O)NCCCBr | C8H16BrNO2
